US04126440
a. N-Chloroacetyl-2,6-dimethylanilinoacetic acid
36 g (0.2 mole) of 2,6-dimethylanilinoacetic acid, 400 ml of methylene chloride and 200 ml of 1N NaOH (0.2 mole) are placed into a flask with stirrer, and 17.5 ml (0.22 mole) of chloroacetic acid chloride is slowly added dropwise with stirring, the temperature being maintained at 20°-25° by cooling with ice-water. During the dropwise addition, there is formed a white precipitate. Stirring is continued for 30 minutes and the precipitate is then filtered off with suction; the precipitate is washed with cold water, well pressed out and subsequently dried over P2O5 in a desiccator. For the purpose of obtaining further amounts of final product, the methylene chloride phase is separated in a separating funnel, dried over Na2SO4 and concentrated in vacuo, and the crystalline residue is recrystallised from ethyl acetate. There is obtained a total amount of 44 g (86% of theory) of N-chloroacetyl-2,6-dimethylanilinoacetic acid, m.p. 160° (decomposition).

reactant | 2,6-dimethylanilinoacetic acid | 0.2 mole, 36 g | CC1=C(NCC(=O)O)C(=CC=C1)C | C10H13NO2
reactant | NaOH | 0.2 mole, 1N, 200 ml | [OH-].[Na+]
reactant | chloroacetic acid chloride | 0.22 mole, 17.5 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | N-Chloroacetyl-2,6-dimethylanilinoacetic acid | ClCC(=O)N(C1=C(C=CC=C1C)C)CC(=O)O | C12H14ClNO3
